US07875645B2
Butyl-[1-(2-ethyl-3,6-difluoro-phenyl)-meth-(E)-ylidene]-amine was prepared from butyl-[1-(2-chloro-3,6-difluoro-phenyl)-meth-(E)-ylidene]-amine, ethylmagnesium bromide and manganese(II) chloride in analogy to Example 194a): brown oil; 1H-NMR (CDCl3): 0.97 (3H, t, CH3), 1.15 (3H, t, CH3), 1.43 (2H, sextet, CH2), 1.70 (2H, quintet, CH2), 2.98 (2H, qd, CH2), 3.66 (2H, t, CH2), 6.87 (1H, td, ArH), 6.99 (1H, td, ArH), 8.52 (1H, s, CH═N).

reactant | butyl-[1-(2-chloro-3,6-difluoro-phenyl)-meth-(E)-ylidene]-amine | C(CCC)/N=C/C1=C(C(=CC=C1F)F)Cl | C11H12ClF2N
reactant | ethylmagnesium bromide | C(C)[Mg]Br
catalyst | manganese(II) chloride | [Cl-].[Mn+2].[Cl-]
product | Butyl-[1-(2-ethyl-3,6-difluoro-phenyl)-meth-(E)-ylidene]-amine | C(CCC)/N=C/C1=C(C(=CC=C1F)F)CC | C13H17F2N
